US04034098
4-Methanesulphonamido-1-(4-phenyl-4-oxobutyl)piperidine
4-Amino-1-(4-phenyl-4-oxobutyl)piperidine (1.23 g. 0.005 m) was suspended in a solution of dichloromethane (10 mls) containing triethylamine (2 mls). Methanesulphonyl chloride (0.570 g, 0.005 m) in dichloromethane (5 mls) was added dropwise over 5 minutes and the reaction stirred overnight at room temperature. The solution was then washed with five aliquots of water and dried over magnesium sulphate. Evaporation yielded the free base in 90% purity. This was triturated in ethyl acetate and warmed. The mother liquor was decanted off and evaporated to yield the title compound m.pt 141.4° C. This was recrystallised from ethanolic HCl as the hydrochloride salt (0.510 g), m.pt 167.4° C.

reactant | 4-Amino-1-(4-phenyl-4-oxobutyl)piperidine | 1.23 g | NC1CCN(CC1)CCCC(=O)C1=CC=CC=C1 | C15H22N2O
reactant | triethylamine | 2 mls | C(C)N(CC)CC | C6H15N
reactant | Methanesulphonyl chloride | 0.570 g | CS(=O)(=O)Cl | CH3ClO2S
solvent | dichloromethane | 5 mls | ClCCl | CH2Cl2
solvent | dichloromethane | 10 mls | ClCCl | CH2Cl2
product | 4-Methanesulphonamido-1-(4-phenyl-4-oxobutyl)piperidine | CS(=O)(=O)NC1CCN(CC1)CCCC(=O)C1=CC=CC=C1 | C16H24N2O3S
